US07893085B2
3-(2-Fluoro-4-iodo-phenylamino)-thieno[2,3-c]pyridine-2-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide
3-(2-Fluoro-4-iodo-phenylamino)-thieno[2,3-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide (40 mg, 0.07 mmol) was dissolved in methanol (1 ml) and concentrated hydrochloric acid (1 drop) added. The mixture was allowed to stir for 2 hours then evaporated to dryness to give a residue. The residue was partitioned between aqueous saturated NaHCO3 solution (3 ml), water (20 ml) and DCM (20 ml). The organic layer was separated, dried over sodium sulphate, filtered and evaporated to give a yellow solid. The solid was purified by flash chromatography (Si-SPE, DCM:MeOH, gradient 99:1 to 92:8) to afford the title compound as a yellow solid (21 mg, 57%). LCMS (method A): RT=7.12 min, M+H+=504. 1H NMR (d4-MeOH, 400 MHz) 9.15 (s, 1H), 8.38 (d, J=5.7 Hz, 1H), 7.52 (dd, J=10.6 Hz, 2.0 Hz, 1H), 7.44 (dd, J=5.7 Hz, 1.0 Hz, 1H), 7.32 (ddd, J=8.5 Hz, 2.0 Hz, 1.0 Hz, 1H), 6.56 (dd, J=8.5 Hz, 8.5 Hz, 1H), 4.00-4.13 (m, 1H), 3.85-3.95 (m, 2H), 3.54-3.65 (m, 2H).

reactant | 3-(2-Fluoro-4-iodo-phenylamino)-thieno[2,3-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | 0.07 mmol, 40 mg | CC1(OC[C@@H](O1)CONC(=O)C1=C(C=2C(=CN=CC2)S1)NC1=C(C=C(C=C1)I)F)C | C20H19FIN3O4S
solvent | methanol | 1 ml | CO | CH4O
catalyst | hydrochloric acid | 1 drop | Cl | ClH
product | 3-(2-Fluoro-4-iodo-phenylamino)-thieno[2,3-c]pyridine-2-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide | 21 mg, 57% | O[C@@H](CONC(=O)C1=C(C=2C(=CN=CC2)S1)NC1=C(C=C(C=C1)I)F)CO | C17H15FIN3O4S
